US08975398B2
tert-butyl 4-(4-(1-(benzyloxycarbonyl)azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate
1-(Benzyloxycarbonyl)azetidine-3-carboxylic acid (5.10 g, 21.67 mmol), 1-hydroxybenzotriazole hydrate (4.15 g, 27.1 mmol) and tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate (5.28 g, 18.06 mmol) were suspended in dimethylformamide (25 ml) followed by addition of diisopropylethylamine (9.64 ml, 54.2 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (5.19 g, 27.1 mmol). The mixture was stirred at room temperature overnight and the solution was diluted with water. The resulting turbid mixture was extracted with ethyl acetate and then ethyl acetate/tetrahydrofuran. The organics were combined and dried over magnesium sulfate, filtered and concentrated to give a solid which was triturated with ether and filtered to give the title compound.

reactant | 1-(Benzyloxycarbonyl)azetidine-3-carboxylic acid | 21.67 mmol, 5.10 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
reactant | 1-hydroxybenzotriazole hydrate | 27.1 mmol, 4.15 g | O.ON1N=NC2=C1C=CC=C2
reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | 18.06 mmol, 5.28 g | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | diisopropylethylamine | 54.2 mmol, 9.64 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 27.1 mmol, 5.19 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4-(4-(1-(benzyloxycarbonyl)azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C28H35N3O6
